US05219859
N-[1-(1-Methyl-3-indolyl)cyclopentylmethyl]benzamide (C22H24N2O - MW=332.45)
The reaction is performed under a dry nitrogen atmosphere. 9.8 g (0.07 mol) of benzoyl chloride dissolved in 70 cm3 of diethyl ether are added dropwise to a solution of 16 g (0.07 mol) of 1-(1-methyl-3-indolyl)-cyclopentylmethylamine and 7.08 g (0.07 mol) of triethylamine in 70 cm3 of diethyl ether so as to maintain a gentle reflux of the ether, and the mixture is then stirred for 2 hours at room temperature. The precipitate formed is thereafter drained, the ether solution is washed with water, dried over sodium sulphate and filtered and the ether is evaporated off from the filtrate. The residue thereby obtained is crystallised by washing with cold diisopropyl ether.

reactant | benzoyl chloride | 0.07 mol, 9.8 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1-(1-methyl-3-indolyl)-cyclopentylmethylamine | 0.07 mol, 16 g | CN1C=C(C2=CC=CC=C12)C1(CCCC1)CN | C15H20N2
reactant | triethylamine | 0.07 mol, 7.08 g | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 70 cm3 | C(C)OCC | C4H10O
solvent | diethyl ether | 70 cm3 | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | N-[1-(1-Methyl-3-indolyl)cyclopentylmethyl]benzamide | CN1C=C(C2=CC=CC=C12)C1(CCCC1)CNC(C1=CC=CC=C1)=O | C22H24N2O
